US09388189B2
(S)—N-(3-Hydroxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide
(S)—N-(3-Methoxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide (50 mg, 0.05 mmol, 80% purity) was treated with boron tribromide (1M in dichloromethane, 2.0 ml, 2.0 mmol) with dichloromethane (1.0 ml) as a solvent according to the method described in Example 23. and then with a solution of ammonia (7N in methanol, 5.0 ml, 35.0 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-acetonitrile/methanol 1:1) to obtain 6 mg (16% yield) of the title compound.

reactant | (S)—N-(3-Methoxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide | 0.05 mmol, 50 mg | COC=1C=C(C=CC1C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)CC1CCOCC1 | C40H50N8O6SSi
reactant | boron tribromide | 2.0 mmol, 1M, 2.0 ml | B(Br)(Br)Br | BBr3
reactant | ammonia | 35.0 mmol, 7N, 5.0 ml | N | H3N
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | (S)—N-(3-Hydroxy-4-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)methanesulfonamide | 6 mg, 16% yield | OC=1C=C(C=CC1C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)NS(=O)(=O)CC1CCOCC1 | C33H34N8O5S
